US04945098
1-Hexadecyloxy-3-[4-(trimethylammonio)butoxy]-2-methylenepropane methanesulfonate
1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane (from Preparation 7) (1.77 g) was refluxed with 33% trimethylamine in ethanol at 50° C. for 4 hours. Excess trimethylamine and ethanol were removed in vacuo. The product was recrystallized from chloroform/acetone.

reactant | 1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane | 1.77 g | C(CCCCCCCCCCCCCCC)OCC(COCCCCOS(=O)(=O)C)=C | C25H50O5S
reactant | trimethylamine | CN(C)C | C3H9N
solvent | ethanol | C(C)O | C2H6O
product | 1-Hexadecyloxy-3-[4-(trimethylammonio)butoxy]-2-methylenepropane methanesulfonate | CS(=O)(=O)[O-].C(CCCCCCCCCCCCCCC)OCC(COCCCC[N+](C)(C)C)=C | InChI=1S/C27H56NO2.CH4O3S/c1-6-7-8-9-10-11-12-13-14-15-16-17-18-20-23-29-25-27(2)26-30-24-21-19-22-28(3,4)5;1-5(2,3)4/h2,6-26H2,1,3-5H3;1H3,(H,2,3,4)/q+1;/p-1
